US05733882
a) (trans)-2-(t-butyldimethysiloxy)-cyclopentanol
To a mixture of t-butyldimethylsilyl chloride (5.08 g, 33.7 mmol) and imidazole (2.30 g, 33.7 mmol) in DMF (10 mL), a solution of trans-1,2-cyclopentanediol in DMF (4 mL) was added. The reaction mixture was stirred overnight at 25° C. The reaction mixture was diluted with ice water and extracted with ether. The ether extract was washed with water and brine, dried over magnesium sulfate, filtered and the solvent removed in vacuo. The residue was purified by flash chromatography (silica, 9:1 hexane:ethyl acetate) to the title compound as an oil (3.44 g, 49%).

reactant | t-butyldimethylsilyl chloride | 33.7 mmol, 5.08 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 33.7 mmol, 2.30 g | N1C=NC=C1 | C3H4N2
reactant | trans-1,2-cyclopentanediol | [C@@H]1([C@@H](CCC1)O)O | C5H10O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | (trans)-2-(t-butyldimethysiloxy)-cyclopentanol | O([Si](C)(C)C(C)(C)C)[C@H]1[C@@H](CCC1)O | C11H24O2Si
